US07138425B2
a) 2-(5-Nitro-2-propoxyphenyl)-5-phenylbenzoxazole
Prepared by the method of Example 44a), from 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole (400 mg, 1.2 mmol) in propanol (2 ml) the subtitle compound was obtained (325 mg, 73%). MS 375 m/z (M+H)+.

reactant | 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole | 1.2 mmol, 400 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H11FN2O3
solvent | propanol | 2 ml | C(CC)O | C3H8O
product | 2-(5-Nitro-2-propoxyphenyl)-5-phenylbenzoxazole | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCCC | C22H18N2O4
